US06809113B2
4-Amino-3-hydroxybenzoic acid (5.00 g) was suspended in dichloromethane (200 mL) under a nitrogen atmosphere and cooled to −60° C. Chloroacetyl chloride (3.72 g) was added dropwise, and the mixture was allowed to warm up to room temperature and stirred at this temperature for 16 h. Pyridine (15 mL) was added and the precipitated solid was filtered, washed with methanol, and dried under high vacuum to yield pyridinium 4-(2-chloroacetylamino)-3-hydroxybenzoate. A portion of this material (8.00 g) was suspended in anhydrous tetrahydrofuran (25 mL) under a nitrogen atmosphere and cooled to −60° C. Sodium hydride (4.15 g of a 60% suspension in mineral oil) was added, the cooling bath was removed, and the mixture was stirred at room temperature for 16 h. It was then cooled to 0° C., quenched by addition of methanol, and concentrated under reduced pressure. The residue was suspended in water and acidified to pH 1 with concentrated hydrochloric acid. The precipitated solid was filtered, washed with water, and dried under high vacuum to give 3-oxo-2H,4H-benzo[e]-1,4-oxazaperhydroine-7-carboxylic acid. A portion of this material (3.50 g) was suspended in methanol (115 mL) and treated with sulfuric acid (0.887 g). The mixture was heated at reflux for 16 h and cooled to room temperature. The precipitated solid was filtered, washed with methanol, and dried to give methyl 3-oxo-2H,4H-benzo[e]1,4-oxazaperhydroine-7-carboxylate. A portion of this material (2.00 g) was suspended in anhydrous tetrahydrofuran (100 mL), cooled to 0° C., and treated with sodium hydride(0.77 g of a 60% suspension in mineral oil). The suspension was stirred for 1 h, treated with iodomethane (2.74 g), and the mixture stirred at room temperature for 16 h. The solvent was evaporated and the residue was suspended in ammonium chloride solution, filtered, washed with water, and dried under high vacuum to give methyl 4-methyl-3-oxo-2H-benzo[e]-1,4-oxazaperhydroine-7-carboxylate. A portion of this material (1.89 g) was suspended in tetrahydrofuran (100 mL) and treated with a 1M solution of borane-tetrahydrofuran complex in tetrahydrofuran (14.2 mL). The mixture was heated at reflux for 4 h and cooled to room temperature. The solvents were removed under reduced pressure and the residue was purified by column chromatography eluting with n-hexane/ethyl acetate to afford methyl 4-methyl-2H,3H-benzo[e]-1,4-oxazaperhydroine-7-carboxylate as a yellow solid. A portion of this material (0.53 g) was dissolved in methanol (5 mL) and 5N NaOH solution (2.55 mL) and the mixture was heated at reflux for 4 h. After cooling to room temperature, the mixture was diluted with water and acidified to pH 2 with concentrated hydrochloric acid. The precipitated solid was filtered, washed with water, and dried under high vacuum to give 4-methyl-2H,3H-benzo[e]-1,4-oxazaperhydroine-7-carboxylic acid as a white solid. A portion of this material (0.40 g) was suspended in a 0.5M solution of ammonia in dioxane (10.4 mL), and the suspension treated with diisopropylethylamine (1.34 g), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.86 g) and DMF (5 mL). The mixture was stirred at room temperature for 16 h. The solvent was removed under reduce pressure, and the residue was purified by column chromatography eluting with dichloromethane/methanol to yield 4-methyl-2H,3H-benzo[e]-1,4-oxazaperhydroine-7-carboxamide. A portion of this material (0.10 g) was dissolved in hot toluene (30 mL) and azeotroped for 1 h. The solution was cooled to room temperature and treated with 3-bromophenyl isocyanate (0.226 g). The mixture was heated at reflux for 16 h, cooled to room temperature, and the precipitated solid was collected by filtration, washed with methanol and dichloromethane, and dried under high vacuum to yield N-{[(3-bromophenyl)amino]carbonyl}(4-methyl(2H,3H-benzo[e]-1,4-oxazaperhydroin-7-yl))-carboxamide as a white solid.

reactant | 4-Amino-3-hydroxybenzoic acid | 5.00 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | Chloroacetyl chloride | 3.72 g | ClCC(=O)Cl | C2H2Cl2O
reactant | Pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | pyridinium 4-(2-chloroacetylamino)-3-hydroxybenzoate | ClCC(=O)NC1=C(C=C(C(=O)[O-])C=C1)O.[NH+]1=CC=CC=C1 | InChI=1S/C9H8ClNO4.C5H5N/c10-4-8(13)11-6-2-1-5(9(14)15)3-7(6)12;1-2-4-6-5-3-1/h1-3,12H,4H2,(H,11,13)(H,14,15);1-5H
